US08729271B2
N-(3-Bromo-4-fluorobenzyl)tetrahydro-2H-pyran-4-amine
Triethylamine (2.52 g) was added to a suspension of 3-bromo-4-fluorobenzylamine hydrochloride (2.79 g) in chloroform (50 mL), and the mixture was stirred at room temperature for 10 min. Tetrahydro-4H-pyran-4-one (2.29 g) was added thereto and the mixture was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (4.85 g) was added thereto, followed by further stirring for 1 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the resulting mixture was then stirred for a while and extracted with chloroform. The organic phase was separated out and the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=100:0-90:10) to afford the title compound (2.70 g).

reactant | 3-bromo-4-fluorobenzylamine hydrochloride | 2.79 g | Cl.BrC=1C=C(CN)C=CC1F
reactant | Tetrahydro-4H-pyran-4-one | 2.29 g | O1CCC(CC1)=O | C5H8O2
reactant | Sodium triacetoxyborohydride | 4.85 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Triethylamine | 2.52 g | C(C)N(CC)CC | C6H15N
product | N-(3-Bromo-4-fluorobenzyl)tetrahydro-2H-pyran-4-amine | 2.70 g | BrC=1C=C(CNC2CCOCC2)C=CC1F | C12H15BrFNO
